US05596002
(1RS,2RS)-N1 -(7-Chloro-quinolin-4-yl)-N2,N2 -diethyl-cyclopentane-1,2-diamine
8.16 g of base from 16 g of 4,7-dichloroquinoline and 12.7 g of 2-(diethylamino)cyclopentylamine (16 hours reaction duration at 140° C.). By addition of isopropanolic hydrochloric acid to a solution of the diamine in isopropanol were precipitated 7.84 g of dihydrochloride; colourless crystals from acetonitrile/ethanol, m.p.: 186°-190° C.

reactant | 4,7-dichloroquinoline | 16 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 2-(diethylamino)cyclopentylamine | 12.7 g | C(C)N(C1C(CCC1)N)CC | C9H20N2
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | (1RS,2RS)-N1 -(7-Chloro-quinolin-4-yl)-N2,N2 -diethyl-cyclopentane-1,2-diamine | ClC1=CC=C2C(=CC=NC2=C1)NC1C(CCC1)N(CC)CC | C18H24ClN3
